US08017607B2
To a mixture of rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-propionic acid ethyl ester (12.3 mg, 0.0235 mmol) in THF (2 mL) was added a solution of LiOH (Aldrich, 6.7 mg, 0.16 mmol) in water (1 mL) and the reaction mixture was stirred at rt for 22 hrs. The reaction mixture was partly concentrated and quenched with 1 N HCl (pH 6-7), extracted with EtOAc, washed with water (2×), and saturated NaCl. The organic phase was separated, and dried over Na2SO4. The mixture was then concentrated to give rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-propionic acid (11 mg, 100%). HRMS (ES+) m/z Calcd for C25H26Cl2F2N2O2+H [(M+H)+]: 495.1412; Found: 495.1413.

reactant | rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-propionic acid ethyl ester | 0.0235 mmol, 12.3 mg | C(C)OC(CCN1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C27H30Cl2F2N2O2
reactant | LiOH | 0.16 mmol, 6.7 mg | [Li+].[OH-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | rac-3-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-propionic acid | 11 mg, 100% | ClC=1C(=C(C=CC1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)CCC(=O)O)F | C25H26Cl2F2N2O2
